### ISSUE TITLE
chapter 2: misformalisations

### ISSUE THREAD

**Issue by pitmonticone** [mo271/FormalBook#98]
The following theorems were negated by @Aristotle-Harmonic:

- `harmonic_number_bounds` 
- `bound_factorial` 
- `bound_binomial_coeff`

More specifically: 

```lean
import Mathlib
open Lean Meta Elab Tactic in
elab "revert_all" : tactic => do
  let goals ← getGoals
  let mut newGoals : List MVarId := []
  for mvarId in goals do
    newGoals := newGoals.append [(← mvarId.revertAll)]
  setGoals newGoals

open Lean.Elab.Tactic in
macro "negate_state" : tactic => `(tactic|
  (
    guard_goal_nums 1
    revert_all
    refine @(((by admit) : ∀ {p : Prop}, ¬p → p) ?_)
    try push_neg
  )
)

theorem harmonic_number_bounds {n : ℕ} :
      Real.log n + 1 / n < harmonic n ∧
      harmonic n <  Real.log n + 1 := by
    -- Wait, there's a mistake. We can actually prove the opposite.
    negate_state;
    -- Proof starts here:
    -- Let's choose any $n$ and derive a contradiction.
    use 1; norm_num

theorem bound_factorial {n : ℕ} :
    n.factorial < e*(n / e)^n := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state;
  -- Proof starts here:
  -- Let's choose any $n \geq 1$.
  use 1; norm_num [chapter2.e]

theorem bound_binomial_coeff {k n : ℕ} :
    Nat.choose n k ≤ n ^ k / n.factorial ∧
    n ^ k / n.factorial ≤ n ^ k / 2 ^ (k - 1) := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state
  -- Proof starts here:
  -- Consider $k = 5$ and $n = 10$.
  use 5, 10
  -- Calculate the binomial coefficient and the factorial.
  norm_cast at *
```

**Comment by mo271** [comment]
Thanks for these, should be fixed by #110...
